US09382228B2
A −78° C. solution of 2,2,2-trimethylacetamide (1 g, 9.89 mmol) in THF (20 mL) was treated drop-wise with lithium bis(trimethylsilyl)amide (1.0N in THF, 11.86 mL, 11.86 mmol), stirred for 30 min, treated drop-wise with a solution of isopropenyl chloroformate (1.43 g, 11.86 mmol) in THF (5 mL), warmed to RT and stirred for 1 h. The mixture was treated with satd. NaHCO3, extracted with EtOAc (2×) and the combined organics were washed with satd. NH4Cl, then brine, dried over Na2SO4 and concentrated to dryness to afford prop-1-en-2-yl pivaloylcarbamate (1.94 g, 106%) which was used without further purification.

reactant | 2,2,2-trimethylacetamide | 9.89 mmol, 1 g | CC(C(=O)N)(C)C | C5H11NO
reactant | lithium bis(trimethylsilyl)amide | 11.86 mmol, 1.0N, 11.86 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | isopropenyl chloroformate | 11.86 mmol, 1.43 g | ClC(=O)OC(=C)C | C4H5ClO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | prop-1-en-2-yl pivaloylcarbamate | 1.94 g, 106% | C(C(C)(C)C)(=O)NC(OC(=C)C)=O | C9H15NO3
